US04005218
A mixture of 40 parts of 4-chloro-α-[2-chloro-4-(hydroxyimino)-5-methyl-2,5-cyclohexadien-1-ylidene]benzeneacetonitrile, 50 parts of iron-powder, 1500 parts of ammonium chloride solution 0.78N and 270 parts of methylbenzene is stirred and refluxed overnight. The reaction mixture is filtered over hyflo and the filter-cake is washed with 4-methyl-2-pentanone. The filtrate is dried, filtered and evaporated. The solid residue is crystallized from methylbenzene. The product is filtered off and recrystallized from methylbenzene, yielding 4-amino-2-chloro-α-(4-chlorophenyl)-5-methylbenzeneacetonitrile; mp. 152.6° C.

reactant | 4-chloro-α-[2-chloro-4-(hydroxyimino)-5-methyl-2,5-cyclohexadien-1-ylidene]benzeneacetonitrile | ClC1=CC=C(C=C1)C(C#N)=C1C(=CC(C(=C1)C)=NO)Cl | C15H10Cl2N2O
reactant | ammonium chloride | 0.78N | [Cl-].[NH4+]
catalyst | iron | [Fe] | Fe
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 4-amino-2-chloro-α-(4-chlorophenyl)-5-methylbenzeneacetonitrile | NC1=CC(=C(C=C1C)C(C#N)C1=CC=C(C=C1)Cl)Cl | C15H12Cl2N2
